US04224330
To a mixture of N-chlorosuccinimide (13.1 mmol) and 50 ml toluene, at 0°, is slowly added dimethylsulfide (18.1 mmol). The mixture is stirred briefly, cooled to -25° and 5-chlorobenzothiophene-2-methanol (10. 1 mmol) added followed by stirring for 2 hours. Triethylamine (13.1 mmol) is added and the mixture allowed to warm to RT. The mixture is taken up in ether, washed with 10% HCl, water and brine, dried over sodium sulfate and solvent removed to give 5-chlorobenzothiophene-2-carboxaldehyde.

reactant | N-chlorosuccinimide | 13.1 mmol | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethylsulfide | 18.1 mmol | CSC | C2H6S
reactant | 5-chlorobenzothiophene-2-methanol | 1 mmol | ClC=1C=CC2=C(C=C(S2)CO)C1 | C9H7ClOS
reactant | Triethylamine | 13.1 mmol | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chlorobenzothiophene-2-carboxaldehyde | ClC=1C=CC2=C(C=C(S2)C=O)C1 | C9H5ClOS
